US06824709B2
Acetic anhydride (50 mL) was added to a mixture of 2-acetyl-7-hydroxyfluorene (50 g), pyridine (200 mL) and THF (200 mL) at 28° C. The temperature was elevated slowly up to 61° C. by exothermic heat to obtain a yellow transparent reaction mixture. An organic layer obtained by extracting the mixture with chloroform was washed well in order with 3M-hydrochloric acid, saturated sodium hydrogencarbonate and water, and then dried on anhydrous magnesium sulfate. The solvent was distilled off from this organic layer under reduced pressure, and the resulting residue was purified by means of column chromatography (silica gel, eluting solvent: toluene) and recrystallization (ethanol/ethyl acetate) to obtain 2-acetyl-7-acetoxyfluorene (47.3 g) of colorless crystal. Melting point: 125.5-127.6° C.

reactant | Acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-acetyl-7-hydroxyfluorene | 50 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)O | C15H12O2
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-acetyl-7-acetoxyfluorene | 47.3 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)OC(C)=O | C17H14O3
